US07517889B2
A solution of n-butyl lithium (2.5 M in hexanes, 5 mL, 12.48 mmol) in THF (30 mL) is chilled to −78° C., and a solution of 1-(3-bromo-phenyl)-cyclopentanecarboxylic acid [1.05 g, 3.9 mmol] in THF (10 mL) is added dropwise via syringe. The solution is stirred at temperature for 45 minutes and treated with tributyl borate (3.2 mL, 11.7 mmol). The reaction mixture is allowed to stir for 2.5 hours and then diluted with water (60 mL), acidified with 3M HCl and extracted twice with EtOAc (50 mL). The organic extracts are combined and dried over magnesium sulfate, filtered and concentrated to afford 3-(1-carboxy-cyclopentyl)-phenylboronic acid as a solid, which is used without further purification.

reactant | n-butyl lithium | 12.48 mmol, 2.5 M, 5 mL | C(CCC)[Li]
reactant | 1-(3-bromo-phenyl)-cyclopentanecarboxylic acid | 3.9 mmol, 1.05 g | BrC=1C=C(C=CC1)C1(CCCC1)C(=O)O | C12H13BrO2
reactant | tributyl borate | 11.7 mmol, 3.2 mL | B(OCCCC)(OCCCC)OCCCC | C12H27BO3
reactant | HCl | 3M | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 60 mL | O | H2O
product | 3-(1-carboxy-cyclopentyl)-phenylboronic acid | C(=O)(O)C1(CCCC1)C=1C=C(C=CC1)B(O)O | C12H15BO4
